*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXD250ARA470MF61G
*//   Date        : 2018/02/13
*//   Update 	  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXD250ARA470MF61G_20deg-C 1 2

C1 4 2 2.97e-05
C2 5 2 1.27e-05
C3 6 2 3.46e-06
R1 3 4 1.81e-02
R2 4 5 1.14e-01
R3 5 6 2.06e+00
L1 1 3 2.60e-09

.ENDS
*$
